US08110687B2
To a solution of methyl 3-tert-butyl-5-(hydroxymethyl)benzoate (3.0 g, 0.013 mol) in MeOH (20 mL) was added sodium hydroxide (0.54 g, 0.013 mol) in water (10 mL). The reaction mixture was allowed to stir at rt overnight and then concentrated. To the residue was added 1M HCl added (pH 5) and the resulting precipitate was collected by filtration to give 3-tert-butyl-5-(hydroxymethyl)benzoic acid (92%). LCMS ES−207.

reactant | methyl 3-tert-butyl-5-(hydroxymethyl)benzoate | 0.013 mol, 3.0 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)CO | C13H18O3
reactant | sodium hydroxide | 0.013 mol, 0.54 g | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-tert-butyl-5-(hydroxymethyl)benzoic acid | 92% | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)CO | C12H16O3
